US08022206B2
(4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridin-1-yl)-acetic Acid
A mixture of 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridine-6-ylamine (150.0 mg, 0.355 mmol), cesium carbonate (463 mg, 1.42 mmol) and DMF (4 mL) at rt was charged with chloroacetic acid methyl ester (37 μL, 0.43 mmol) and heated to 40° C. overnight. The solvent was removed in vacuo, and the material was dry-loaded onto silica gel for column chromatography, eluting with 2-5% MeOH/DCM. The fractions containing the pure ester were concentrated in vacuo and redissolved in EtOH (4 mL). The solution was charged with 2M aq. LiOH (0.9 mL) at rt, and stirred for 10 min. The solvents were removed in vacuo to afford the title compound as an orange solid. MS (ES+): m/z 497.97 (100) [MH+]. HPLC: tR=2.36 min (ZQ3, polar—5 min).

reactant | 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridine-6-ylamine | 0.355 mmol, 150.0 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
reactant | cesium carbonate | 1.42 mmol, 463 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloroacetic acid methyl ester | 0.43 mmol, 37 μL | COC(CCl)=O | C3H5ClO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-3,6-dihydro-2H-pyridin-1-yl)-acetic Acid | NC1=C(C2=C(C=N1)C(=CO2)C=2CCN(CC2)CC(=O)O)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C22H20Cl2FN3O4
